US07456164B2
4-({4-[4-(3-pyrrolidin-1-ylpropoxy)phenyl]tetrahydro-2H-pyran-4-yl}methoxy)pyridine
The title compound (75 mg, 60%) was prepared from {4-[4-(3-pyrrolidin-1-ylpropoxy)phenyl]tetrahydro-2H-pyran-4-yl}methanol and 4-bromopyridine similarly to the procedure used for example 152. 1H NMR (400 MHz, CDCl3) δ 1.76-1.82 (m, 4H), 1.98-2.04 (m, 2H), 2.12-2.17 (m, 4H), 2.49-2.58 (m, 4H), 2.61-2.66 (m, 2H), 3.54-3.60 (m, 2H), 3.81-3.85 (m, 2H), 3.87 (s, 2H), 4.03 (t, 2H), 6.71 (d, 2H), 6.91 (d, 2H), 7.29 (d, 2H), 8.36 (d, 2H). HRMS ESI+ m/z 397.2479 [MH]+.

reactant | {4-[4-(3-pyrrolidin-1-ylpropoxy)phenyl]tetrahydro-2H-pyran-4-yl}methanol | N1(CCCC1)CCCOC1=CC=C(C=C1)C1(CCOCC1)CO | C19H29NO3
reactant | 4-bromopyridine | BrC1=CC=NC=C1 | C5H4BrN
product | 4-({4-[4-(3-pyrrolidin-1-ylpropoxy)phenyl]tetrahydro-2H-pyran-4-yl}methoxy)pyridine | 75 mg, 60% | N1(CCCC1)CCCOC1=CC=C(C=C1)C1(CCOCC1)COC1=CC=NC=C1 | C24H32N2O3
